US06277778B1
2-(tert-butyldiphenylsiloxy)indene
To a solution of tert-butyldiphenylchlorosilane (42.43 g, 154.4 mmol) and DBU (25.64 g, 168.4 mmol) in benzene (200 mL) was added 2-indanone (18.38 g, 139.1 mmol) in one portion. The reaction mixture was stirred overnight, diluted with Et2O (200 mL), washed with 10% HCl (2×200 mL) and water (2×200 mL) and dried over sodium sulfate. The solvents were evaporated to leave a dark brown oil. Distillation under reduced pressure gave 38.22 g (74.1%) of the title compound as a yellow oil (bp. 172-175° C./0.05 mbar). 1H NMR (CDCl3, δ): 7.77-7.74 (m, 4H); 7.46-7.36 (m, 6H) 7.18-7.16 (m, 1H); 7.11-7.07 (m, 1H); 6.98-6.94 (m, 2H); 5.48 (d, 4J=0.7 Hz, 1H); 3.29 (s, 2H); 1.09 (s, 9H). 13C NMR (CDCl3, δ): 162.13; 145.17; 136.75; 135.53; 132.43; 130.20; 127.99; 126.51; 123.15; 122.49; 119.24; 107.91; 39.43; 26.60; 19.46.

reactant | tert-butyldiphenylchlorosilane | 154.4 mmol, 42.43 g | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
reactant | DBU | 168.4 mmol, 25.64 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 2-indanone | 139.1 mmol, 18.38 g | C1C(CC2=CC=CC=C12)=O | C9H8O
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | 2-(tert-butyldiphenylsiloxy)indene | 38.22 g, 74.1% | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C=1CC2=CC=CC=C2C1 | C25H26OSi
